Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Weakness and high blood sugars
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ h/o IDDM, CAD s/p CABG, PVD s/p multiple intervention, CRI 
(bl ~2.0), TIA, who presents to the ED with 4d of elevated FSBS. 
 
  
Pt notes fingersticks have been running in the 400-500s for the 
past 4 days, + polyuria and polydipsia. She denies medication 
non-compliance, dysuyria, cough, diarrhea, cp. Mild SOB with 
exertion over past few weeks, though recently quit smoking (10 
days ago). Of note, she has been taking chantix x 7 days.  
.  
On arrival to the floor, she noted some weakness with walking, 
but denies frank dizziness/pre-syncope/syncope, visual changes, 
difficulty with speech.  
.  
In ED, VS = 98.2 181/63 62 18 100%RA. on admission, fsbs 456 
"critical high". positive acetone. ck neg. In ED she was given 
1L IVF, and 10 UNITS of regular insulin with subsequent drop in 
FSBS to 150->127->111. Subsequent insulin doses held, and she 
was then started on D5NS, and when repeat K was 2.9, she was 
given 40meq of PO potassium and 20meq was placed in her IVF.  

 
Past Medical History:
PSHx/ PMHx:  PVD,s/p left femoral to above knee popliteal bypass
in ___
with redo s/p left femoral to below-knee popliteal artery bypass
graft ___
Diabetes
CAD,s/p MI ___ and post op in ___, s/p CABG x 3(LIMA-LAD,
SVG-PDA, SVG-OM) in ___
Hypertension
H/O tendonitis
S/P TIA in ___
S/P remote bilateral CEA
Hyperlipidemia
Hypothyroidism
Hyperkalemia
Chronic renal insufficiency
Atrial fibrillation post operatively in ___ without 
recurrence
Retinopathy
H/O cataracts, s/p bilateral lens implants
Arthritis
Depression

 
Social History:
___
Family History:
Mother died of ___ at approx ___, father had 
___ and CHF, her sister is healthy. No children.  
 
Physical Exam:
Admission PE
VS: 97.7 (98.8) 188/62 57 18 97 %RA FSBS 226, 160, 65, 114  
GEN: NAD  
HEENT: PERRLA, EOMI, sclera anicteric, OP clear, MMM, no LAD, no 
carotid bruits. No JVD.  
CV: regular, nl s1, s2, no r/g. ___ SEM @ RSB.  
PULM: CTA B, no r/r/w.  
ABD: soft, NT, ND, + BS, no HSM.  
EXT: warm, 2+ dp/radial pulses ___.  
NEURO: alert & oriented x 3  

 
Pertinent Results:
___ 04:00PM   WBC-11.5 HGB-11.5* HCT-35.0* MCV-86
___ 04:00PM   ___ PTT-21.9* ___
___ 04:00PM   ALT(SGPT)-20 AST(SGOT)-18 CK(CPK)-57 ALK 
PHOS-113 TOT BILI-0.2
___ 04:00PM   cTropnT-0.01
___ 04:04PM   GLUCOSE-423* 
___ 04:00PM   ACETONE-POS. LACTATE-1.6
___ 05:49PM   %HbA1c-8.5*
___ 06:44PM   URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-250 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

___ 
 Ucx: Mixed flora c/w contamination
 CXR: No acute process
 EKG: no change from prior
       
___
 MRI/MRA: 
No evidence of acute ischemic event. Areas consistent with 
chronic microvascular ischemic changes, similar findings are 
demonstrated in the pons with a lacunar ischemic event in the 
left side. The MRA appears grossly normal. 

 TEE bubble study:-no change from prior, no foramen ovale EF 55%
 Carotid duplex: results pending
  Renal US:
1. No evidence of renal artery stenosis, with normal arterial 
waveforms 
throughout bilateral arterial branches. 
2. Diminished diastolic flow in both kidneys, and slight 
decrease in kidney size, suggesting sequela of chronic kidney 
disease. 

 24 hr holter: No period of A-Fib
 
Brief Hospital Course:
DKA- no ketones in urine but +acetones, initial +gap rapidly 
closed. Inciting etiology unclear (UA slightly dirty, no CP, 
fever, denies medication non-compliance). CE neg X 3. Lipase 
wnl. Now euvolemic. No underlying infectious or ischemic source 
found.  Pt treated with hydration and insulin, responsed 
rapidly.  Blood sugars now controlled on new standing lantus 
dose and sliding scale.  Will ___ to ensure proper insulin 
administration at home.

Transient Weakness/TIA- Patient had 1 minute palsy of left hand 
on ___. No residual focal neurologic deficits to suggest CVA. 
Neurology consulted, full TIA work up performed given hx of 
previous TIA requiring bilateral CEA. MRI/MRA show no ischemia 
or stenosis, TTE reveals no thrombus or foramen ovale, no 
evidence for A-FIB.  Carotid ultrasound still pending final 
read.

# CAD -Asymptomatic throughout visit, baseline EKG's and nl 
enzymes  
 
# PVD -At baseline level of claudication 
 
# abdominal bruit - Found on exam during stay.  Given elevated 
BP, obtained abdominal ultrasound which showed no RAS. 

# HTN - poorly controlled as outpatient, Amlodipine added to 
regimine with improvement of pressures to 140-170 systolic.   

# smoking cessation - Chantix held while inpatient
 
# Anemia: Iron studies/B12/Folate checked recently and wnl. 
___ from renal disease and has recently started epo. 
Colonoscopy in ___ w/o malignancy. Will continue outpt 
darbepoetin.

# hypothyroidism - stable, continued levothyroxine   

# chronic renal insufficiency - Stayed at baseline cre 2.0-2.3.  
Lasix initially held for low potassium, then restarted.
   
# depression - was stable on citalopram.  

 
Medications on Admission:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY  
5. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY  
6. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO DAILY 
 
7. Pantoprazole 40 mg PO Q12H (every 12 hours).  
8. Aspirin 81 mg PO DAILY (Daily).  
9. Docusate Sodium 100 mg PO BID  
11. Lantus 22 Units Subcutaneous at bedtime.   
13. Lasix 40 mg PO QDAILY.  
14. Irbesartan 300mg PO QDAILY.  
15. Misoprostol 200mcg PO QID  
16. Sucralfate 1 gram PO QID  
17. Chantix 0.5 mg po bid  

 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
9. Irbesartan 300 mg Tablet Sig: One (1) Tablet PO QDAILY () as 
needed for HTN.  
10. Misoprostol 200 mcg Tablet Sig: One (1) Tablet PO QIDPCHS (4 
times a day (after meals and at bedtime)).  
11. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
12. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
14. Insulin Glargine 100 unit/mL Cartridge Sig: 8 U every 
morning and 17 U at bedtime units Subcutaneous twice a day.  
15. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
16. Insulin Lispro 100 unit/mL Solution Sig: per sliding scale U 
Subcutaneous four times a day: please check prior to every meal 
and before bedtime; give in addition to glargine.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Diabetic ketoacidosis 
Possible Transient Ischemic Attack
Secondary:
Coronary Artery Disease
Peripheral Vascular Disease
Hypertension
Anemia
Hypothyroidism
Chronic Renal Disease ___ Diabetes mellitus gfr 20
Arthritis
Depression
 
Discharge Condition:
Hemodynamically stable and ambulatory.

 
Discharge Instructions:
You were admitted to the hospital feeling weak and with high 
blood sugars.  During your hospital stay you became weak in your 
left hand which was concerning for a TIA like you had in the 
past.  During your stay your blood sugar was brought back into 
control, and you had many studies to help find out why your hand 
became weak.  It will be important to continue to follow up with 
your doctors outside of the hospital.  Also, because of your 
recent illness, there will be a nurse sent to your home for a 
brief period of time to make sure everything is going well.

The only medication that change during your stay was the 
addition of a new blood pressure medicince called amlodipine, 5 
mg per day.  You should continue taking this medicine. (Chantix 
was discontinued)

During your stay at the hospital, you missed your normal dose of 
Aranesp for your blood.  You will need to make up this dose when 
you leave the hospital.  

Please seek medical help if you experience any of the following:
Blood sugar below 60 or over 350
Sudden weakness, loss of sensation, slurring of speech, or loss 
of vision.
Difficulty breathing, chest pain or pressure.
High fever.
 
Followup Instructions:
___